US06953790B2
Step B. 2-Oxo-3-(1-benzylpiperidin4-yl)-2,3-dihydro-1H-imidazo[4,5-c]pyridine
A solution of 4-amino-3-[(1-benzylpiperidin-4-yl)amino)pyridine (2.8 g, 9.9 mmol) and carbonyldiimidazole (3.0 g, 18.5 mmol) in tetrahydrofuran (100 mL) was refluxed overnight. The reaction was cooled, concentrated and partitioned between chloroform (500 mL) and saturated sodium carbonate (100 mL). The organic phase was dried over magnesium sulfate and concentrated to give the title compound (2.8 g). MS 209 (M+1).

reactant | 4-amino-3-[(1-benzylpiperidin-4-yl)amino)pyridine | 9.9 mmol, 2.8 g | NC1=C(C=NC=C1)NC1CCN(CC1)CC1=CC=CC=C1 | C17H22N4
reactant | carbonyldiimidazole | 18.5 mmol, 3.0 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-Oxo-3-(1-benzylpiperidin4-yl)-2,3-dihydro-1H-imidazo[4,5-c]pyridine | 2.8 g | O=C1NC2=C(C=NC=C2)N1C1CCN(CC1)CC1=CC=CC=C1 | C18H20N4O
